US06432947B1
N-Boc sarcosine piperonylamide (500 mg, 1.54 mmol) in methanol (10 mL) was treated with acetyl chloride (1 mL). After 45 minutes, all volatiles were removed under reduced pressure to yield sarcosine piperonyl amide hydrochloride (395 mg, quant.) as a sticky solid.

reactant | N-Boc sarcosine piperonylamide | 1.54 mmol, 500 mg | C(C1=CC=2OCOC2C=C1)(=O)N.C(=O)(OC(C)(C)C)N(C)CC(=O)O
reactant | acetyl chloride | 1 mL | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 10 mL | CO | CH4O
product | sarcosine piperonyl amide hydrochloride | 395 mg | Cl.C(C1=CC=2OCOC2C=C1)(=O)N.N(C)CC(=O)O | InChI=1S/C8H7NO3.C3H7NO2.ClH/c9-8(10)5-1-2-6-7(3-5)12-4-11-6;1-4-2-3(5)6;/h1-3H,4H2,(H2,9,10);4H,2H2,1H3,(H,5,6);1H
